US07547691B2
(A). Preparation of 7-chloro-benzo[b]thiophene
Into a 2 L round bottomed flask is added 2-chlorobenzenethiol (50.0 g, 346 mmol), potassium carbonate (52.7 g, 381 mmol) and acetone (1 L). 2-Bromo-1,1-diethoxyethane (71.5 g, 363 mmol) is added and the mixture is heated to reflux for 24 hours. The cooled mixture is filtered and concentrated under reduced pressure to yield crude 2-chlorophenyl-(2,2-diethoxyethyl)sulfane as a pale pink oil (101.8 g, quantitative). A 2 L, 3-necked round-bottomed flask, fitted with a mechanical stirrer, condenser and addition funnel is charged with chlorobenzene (1 L) and polyphosphoric acid (200 g) and the mixture is heated to reflux. At reflux the crude (2-chlorophenyl)(2,2-diethoxyethyl)sulfane is added dropwise over 1.5 hours and the mixture is refluxed for a further 24 hours. The cooled organic layer is decanted and concentrated under reduced pressure. The crude material is subjected to chromatography on silica (hexane) to provide the title compound as a brown oil (54.4 g, 93% yield).

reactant | (2-chlorophenyl)(2,2-diethoxyethyl)sulfane | ClC1=C(C=CC=C1)SCC(OCC)OCC | C12H17ClO2S
solvent | chlorobenzene | 1 L | ClC1=CC=CC=C1 | C6H5Cl
product | 7-chloro-benzo[b]thiophene | 54.4 g, 93% yield | ClC1=CC=CC2=C1SC=C2 | C8H5ClS
